* Z:\home\sdanthinne\Documents\307\gateTransistorModels\clkTest.asc
XX1 Vdd Vout Vin s_clock
Vin Vin 0 1.2V

* block symbol definitions
.subckt s_clock Vdd CLK Vctl
XX1 N013 N012 Vdd Vctl s_starv_current_inv
XX2 N014 N013 Vdd Vctl s_starv_current_inv
XX3 N015 N014 Vdd Vctl s_starv_current_inv
XX4 N016 N015 Vdd Vctl s_starv_current_inv
XX5 N017 N016 Vdd Vctl s_starv_current_inv
XX6 N018 N017 Vdd Vctl s_starv_current_inv
XX7 N001 CLK Vdd Vctl s_starv_current_inv
XX8 N002 N001 Vdd Vctl s_starv_current_inv
XX9 N003 N002 Vdd Vctl s_starv_current_inv
XX10 N019 N018 Vdd Vctl s_starv_current_inv
XX11 N020 N019 Vdd Vctl s_starv_current_inv
XX12 N021 N020 Vdd Vctl s_starv_current_inv
XX13 N022 N021 Vdd Vctl s_starv_current_inv
XX14 N023 N022 Vdd Vctl s_starv_current_inv
XX15 N024 N023 Vdd Vctl s_starv_current_inv
XX16 N025 N024 Vdd Vctl s_starv_current_inv
XX17 N026 N025 Vdd Vctl s_starv_current_inv
XX18 N027 N026 Vdd Vctl s_starv_current_inv
XX19 N028 N027 Vdd Vctl s_starv_current_inv
XX20 N029 N028 Vdd Vctl s_starv_current_inv
XX21 N030 N029 Vdd Vctl s_starv_current_inv
XX22 N010 N009 Vdd Vctl s_starv_current_inv
XX23 N011 N010 Vdd Vctl s_starv_current_inv
XX24 N012 N011 Vdd Vctl s_starv_current_inv
XX25 N031 N030 Vdd Vctl s_starv_current_inv
XX26 N032 N031 Vdd Vctl s_starv_current_inv
XX27 CLK N032 Vdd Vctl s_starv_current_inv
XX28 N007 N006 Vdd Vctl s_starv_current_inv
XX29 N008 N007 Vdd Vctl s_starv_current_inv
XX30 N009 N008 Vdd Vctl s_starv_current_inv
XX31 N004 N003 Vdd Vctl s_starv_current_inv
XX32 N005 N004 Vdd Vctl s_starv_current_inv
XX33 N006 N005 Vdd Vctl s_starv_current_inv
.IC V(Vback)=0
.ends s_clock

.subckt s_starv_current_inv Vout Vin Vdd Vctl
M1 Vout Vin N001 N001 CMOSN_0.5
M2 N001 Vctl 0 0 CMOSN_0.5 W=5u L=5u
M§CMOSP_0.5 Vout Vin Vdd Vdd PMOS
.ends s_starv_current_inv

.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\sdanthinne\My Documents\LTspiceXVII\lib\cmp\standard.mos
V_dd Vdd 0 5
* .dc Vin 725mV 1.2V
.tran 2m
* V_in Vin 0 870mV
.lib DetailedModel.mod
.ic V(Vout)=0
* PWL(800u 725m 850u 900m 875u 1.1 885u 1.2)
.backanno
.end
